US05371284
Oxidative Formylation--Allow a two-phase mixture of trifluoroacetic acid (150 mL) and hexamethylene tetramine (14.0 g, 0.100 mol), and 1-phenyl-n-nonane (20.4 g, 0.100 mol) to stand 18 hrs. at 25° C., and then reflux for 22 hrs. Concentrate the homogenous reaction mixture and pour the residue over ice and H2O (total of 600 mL). Add diethyl ether (200 mL) and stir the mixture vigorously for 30 min. Raise the pH of the mixture to pH 8 with solid Na2CO3, and add diethyl ether (200 mL). Shake the layers and separate. Extract the aqueous phase with diethyl ether. Wash the combined organic solutions with H2O and brine, dry and filter. Evaporate the solvent, and distill the residue to give 4-(n-nonyl)benzaldehyde (57% yield, 13.2 g) b.p. 136°-139° C. at 0.55 mm.

reactant | hexamethylene tetramine | 0.100 mol, 14.0 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | 1-phenyl-n-nonane | 0.100 mol, 20.4 g | C1(=CC=CC=C1)CCCCCCCCC | C15H24
reactant | trifluoroacetic acid | 150 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 4-(n-nonyl)benzaldehyde | 13.2 g, 57% yield | C(CCCCCCCC)C1=CC=C(C=O)C=C1 | C16H24O
